US05965679
(b) Preparation of 4-(Phenylethynyl)phenyl Acetate
4-Iodophenyl acetate (50.00 g, 0.191 mol), phenylacetylene (23.40 g, 0.229 mol), and triethylamine (54 mL) are added to a 250-mL round bottom flask fitted with a condenser/nitrogen inlet, a thermometer, and a stopper. PdCl2 (PPh3)2 (0.200 g, 0.286 mmol) and PPh3 (1.50 g, 5.73 mmol) are then added and the mixture heated to reflux. When the reaction mixture reaches 40° C., CuI (0.054 g, 0.286 mmol) is added. After 2 hours, the reaction is allowed to cool. The mixture is diluted with methylene chloride and poured into water (500 mL). The aqueous layer is extracted with methylene chloride (100 mL). The combined organic layers are washed with three 300-mL portions of water, dried (MgSO4), and filtered. The solvent is removed in vacuo to give 49 g of a yellow solid. The material is recrystallized from hexanes to give light yellow crystals, mp 104.5° C. to 105.5° C.

reactant | 4-Iodophenyl acetate | 0.191 mol, 50.00 g | C(C)(=O)OC1=CC=C(C=C1)I | C8H7IO2
reactant | phenylacetylene | 0.229 mol, 23.40 g | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 54 mL | C(C)N(CC)CC | C6H15N
reactant | water | 500 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.286 mmol, 0.054 g | [Cu]I
catalyst | PPh3 | 5.73 mmol, 1.50 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-(Phenylethynyl)phenyl Acetate | 49 g | C(C)(=O)OC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C16H12O2
